US08802704B2
Step 2: tert-butyl N-(3-chloro-5-cyanobenzyl)-methylglycinate
The title compound was prepared following general procedure 10, starting from 3-(bromomethyl)-5-chlorobenzonitrile and sarcosine tert-butyl ester hydrochloride. It was isolated as a yellow oil (570 mg, 78%). LC/MS (Method B): 295.1 (M+H)+.

reactant | 3-(bromomethyl)-5-chlorobenzonitrile | BrCC=1C=C(C#N)C=C(C1)Cl | C8H5BrClN
reactant | sarcosine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(CNC)=O
product | tert-butyl N-(3-chloro-5-cyanobenzyl)-methylglycinate | ClC=1C=C(CN(CC(=O)OC(C)(C)C)C)C=C(C1)C#N | C15H19ClN2O2
